US04386103
For example, a mixture of 5,5-dimethyl-2-pyrrolidone, an excess amount of barium hydroxide and a sufficient amount of water is heated under reflux until the reaction is substantially complete. The cooled solution is made slightly acidic with sulfuric acid and neutralized with solid barium carbonate or other bases. After removal of solids by filtration, the filtrate is evaporated under reduced pressure to yield a crude product which after three recrystallizations from an inert solvent such as aqueous ethanol gives an analytically pure product of 4-amino-4,4-dimethyl butanoic acid (4-amino-4-methylvaleric acid). 4-amino-2,4-dimethylvaleric acid is prepared similarly from 3,5,5-trimethyl-2-pyrrolidone.

reactant | 5,5-dimethyl-2-pyrrolidone | CC1(CCC(N1)=O)C | C6H11NO
reactant | barium hydroxide | [OH-].[Ba+2].[OH-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | barium carbonate | C([O-])([O-])=O.[Ba+2]
solvent | water | O | H2O
product | 4-amino-4,4-dimethyl butanoic acid | NC(CCC(=O)O)(C)C | C6H13NO2
